US06664265B2
A solution of tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate (18.04 g, 52.1 mmol) in 180 mL of pyridine was treated with 50 mg of 4-dimethylaminopyridine and chilled in an ice water bath. 2-ethoxyacetyl chloride (6.44 g, 52.6 mmol) was added dropwise to the solution. The reaction was stirred at room temperature for 3 h. The reaction was then heated to reflux with stirring. After 18 h the reaction was cooled and then concentrated. The residue was partitioned between CHCl3 (150 mL) and water (150 mL) and the layers were separated. The aqueous portion was extracted with CHCl3 (3×50 mL). The combined organic portions were washed with brine, dried over Na2SO4, filtered and concentrated to yield 15.47 g of tert-butyl 2-{2-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate as a sticky yellow solid.

reactant | tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate | 52.1 mmol, 18.04 g | NC=1C=NC2=CC=CC=C2C1NCCOCCNC(OC(C)(C)C)=O | C18H26N4O3
reactant | 2-ethoxyacetyl chloride | 52.6 mmol, 6.44 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | pyridine | 180 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 2-{2-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate | 15.47 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCNC(OC(C)(C)C)=O | C22H30N4O4
